US05965559
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with ethyl 1-benzylpiperazine-2-carboxylate (Helv. Chim. Acta, 1962, 45, 2383) to give 1-benzyl-2-ethoxycarbonyl-4-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine in 67% yield.

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | ethyl 1-benzylpiperazine-2-carboxylate | C(C1=CC=CC=C1)N1C(CNCC1)C(=O)OCC | C14H20N2O2
product | 1-benzyl-2-ethoxycarbonyl-4-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 67% yield | C(C1=CC=CC=C1)N1C(CN(CC1)C(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)OCC | C25H32N4O3
